### PR TITLE
feat: update `LLVMRiscV/Pipeline`

### PR DESCRIPTION
**Pull request by luisacicolini**
The PR adds the Combiners.lean infrastructure (including some of the LLVM post-legalization optimization) and the isel lowering for pseudo instructions (pseudo.lean). Moreover, I went through all the files in LLVMRiscV/Pipeline folder and made the style uniform across the whole folder (taking the choices I documented in the PR message).

Some designchoices I took more in detail:
**Combiners**
1. do not copy LLVM's rewrite pattern entirely in a comment
```lean
-- Fold (cond ? x : x) -> x
-- def select_same_val: GICombineRule<
--   (defs root:$root),
--   (match (wip_match_opcode G_SELECT):$root,
--     [{ return Helper.matchSelectSameVal(*${root}); }]),
--   (apply [{ Helper.replaceSingleDefInstWithOperand(*${root}, 2); }])
-- >; -/
```
instead, just have the rewrite rule: `(cond ? x : x) → x`. With these rule I do _not_ specify `when` or `if` a rule applies, but just the rule itself (otherwise it would be too much IMHO). 
2. the definition of rewrites has the same name as LLVM (and nothing else), followed by specifications in case the pattern has different shapes depending on e.g. the ops involved (see `right_identity_zero_sub`, `right_identity_zero_add`, etc.). In this case, the specification will contain the LLVM name (`lshr`, not `srl`)
3. each pattern is introduced by a comment with its name and corresponding rule: 
```lean
/-! ### select_same_val
  (cond ? x : x) → x
-/
```
4. for rewrites which we instantiate for specific values (e.g. x * 2 -> x >>> 1) I add the constant value after the name

**Op-specific files**

1. only added comments wrt. width, not regarding flags, as we group theorems by the bitwidth (`/-! ### i1 -/`).
2. moved everything that had non-consistent names (e.g. `thesis_lhs` etx) to `thesis_ex.lean`, which I ignored and did not refactor.
3. added`_N` where N is the width for which we instantiate the lowering to every definition
4. removed all flags explanations: given that they are sometimes present sometimes not, I removed all of them (otherwise I would have to go fetch all the llvm docs, and I don't think we have that kind of time.)
5. `sorry`ed all the proofs that were missing and commented out.
7. updated the formatting in the script that generates constants
8. left the todos that were there where thet were

Co-authored-by: @salinhkuhn

### CODE REVIEW

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 1]
```diff
@@ -0,0 +1,452 @@
...
+/-! # Post-legalization optimizations
+
+  We implement post-legalization optimizations from LLVM's `GlobalISel` instructor selector.
+  Our naming conventions are consistent with the RISC-V backend.
+
+  LLVM's post-legalization pass is part of the combine passes described in:
+  https://github.com/llvm/llvm-project/blob/d5ac1b5e2872fdafca7804d486c55334b228aaf6/llvm/lib/Target/RISCV/RISCVCombine.td
+
+  The combine passes concerned with the RISC-V backend are described in:
+  https://github.com/llvm/llvm-project/blob/d5ac1b5e2872fdafca7804d486c55334b228aaf6/llvm/include/llvm/Target/GlobalISel/Combine.td#L353
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: Let's maybe drop the hash from the URL here to avoid this overflowing lines?

Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: dropped

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 2]
```diff
@@ -0,0 +1,446 @@
...
+  Our naming conventions are consistent with the RISC-V backend.
+
+  We do not support known-bits analysis nor matching on values, and therefore do not implement the
+  patterns relying on this infrastructure (e.g. `shift_immed_chain`).
+-/
+
+/-! ### sub_to_add
+  (sub x, C) → (add x, -C)
+-/
+def sub_to_add_pat : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
/-- 
### sub_to_add
  (sub x, C) → (add x, -C)
-/
def sub_to_add_pat : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
```

Style nit: the header feels nicer on it's own line, and since this is documentation specifically for a particular pattern, let's make it a docstring

Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: done

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 3]
```diff
@@ -0,0 +1,446 @@
+import SSA.Projects.LLVMRiscV.PeepholeRefine
+import SSA.Projects.LLVMRiscV.simpproc
+import SSA.Projects.RISCV64.Tactic.SimpRiscV
+import SSA.Projects.LLVMRiscV.Pipeline.mkRewrite
+
+open LLVMRiscV
+
+/- This file implements `DAGCombiner` patterns extrcted from the LLVM Risc-V backend.
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
/- This file implements `DAGCombiner` patterns extracted from the LLVM Risc-V backend.
```

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 4]
```diff
@@ -0,0 +1,446 @@
...
+    simp_lowering
+    bv_decide
+
+/-! # Post-legalization optimizations
+
+  We implement post-legalization optimizations from LLVM's `GlobalISel` instructor selector.
+  Our naming conventions are consistent with the RISC-V backend.
+
+  We do not support known-bits analysis nor matching on values, and therefore do not implement the
+  patterns relying on this infrastructure (e.g. `shift_immed_chain`).
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  patterns relying on this infrastructure (e.g., `shift_immed_chain`).
```

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 5]
```diff
@@ -0,0 +1,446 @@
...
+  %1 = llvm.add %x, %c : i64
+  llvm.return %1 : i64
+  }]
+
+example (e : BitVec 64) : e.add 0#64 = e := by bv_decide
+example : ∀ (e : BitVec 64), e.add 0#64 = e := by intros; bv_decide
+
+/-- ### redundant_and
+  (x & y) → x
+  (x & y) → y
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean:56]: Should this be `x & x → x`?  Why are there two rewrites?

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 6]
```diff
@@ -0,0 +1,446 @@
...
+
+/-- ### sub_to_add
+  (sub x, C) → (add x, -C)
+-/
+def sub_to_add_pat : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
+  lhs := [LV| {
+  ^entry (%x: i64):
+  %c = llvm.mlir.constant 1 : i64
+  %1 = llvm.sub %x, %c : i64
+  llvm.return %1 : i64
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  ^entry (%x: i64):
    %c = llvm.mlir.constant 1 : i64
    %1 = llvm.sub %x, %c : i64
    llvm.return %1 : i64
```

This is probably super nitpicky (and I am happy to leave it as is), but LLVM would indent after the basic block.

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 7]
```diff
@@ -0,0 +1,446 @@
...
+
+@[simp_riscv] lemma toType_bv : TyDenote.toType (Ty.riscv (.bv)) = BitVec 64 := rfl
+@[simp_riscv] lemma id_eq1 {α : Type} (x y : α) :  @Eq (Id α) x y = (x = y):= by simp only
+
+structure RISCVPeepholeRewrite (Γ : Ctxt Ty) where
+  lhs : Com LLVMPlusRiscV Γ .pure (Ty.riscv (.bv))
+  rhs : Com LLVMPlusRiscV Γ .pure (Ty.riscv (.bv))
+  correct :  (lhs.denote) = (rhs.denote) := by
+    simp_lowering
+    bv_decide
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: Can we deduplicate this structure with LLVMPeepholeRewriteRefine? Or even with the core framework `PeepholeRewrite`, given that this structure seems to ask for semantic equality (rather than refinement)?

If not, at the very least that auto-tactic should likely be `simp_lowering <;> bv_decide` to account for possible multiple (or even no) goals produced by `simp_lowering`. Also, check for double-whitesace after `correct : `

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 8]
```diff
@@ -0,0 +1,446 @@
...
+  llvm.return %x : i64
+  }]
+
+/-- ### right_identity_zero
+  (x op 0) → x
+-/
+def right_identity_zero_sub : RISCVPeepholeRewrite [Ty.riscv (.bv)] where
+  lhs := [LV| {
+  ^entry (%x: !riscv.reg):
+  %c = li (0) : !riscv.reg
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  %c = li 0 : !riscv.reg
```

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 9]
```diff
@@ -0,0 +1,446 @@
...
+/-- ### sub_to_add
+  (sub x, C) → (add x, -C)
+-/
+def sub_to_add_pat : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
+  lhs := [LV| {
+  ^entry (%x: i64):
+  %c = llvm.mlir.constant 1 : i64
+  %1 = llvm.sub %x, %c : i64
+  llvm.return %1 : i64
+  }]
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  lhs := [LV| {
    ^entry (%x: i64):
      %c = llvm.mlir.constant 1 : i64
      %1 = llvm.sub %x, %c : i64
      llvm.return %1 : i64
  }]
```
NIT: I'd prefer some indentation to make reading easier

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 10]
```diff
@@ -0,0 +1,446 @@
...
+  rhs := [LV| {
+  ^entry (%x: !riscv.reg):
+  ret %x : !riscv.reg
+  }]
+
+def right_identity_zero_add : RISCVPeepholeRewrite [Ty.riscv (.bv)] where
+  lhs := [LV| {
+  ^entry (%x: !riscv.reg):
+  %c = li (0) : !riscv.reg
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  %c = li 0 : !riscv.reg
```

Comment (tobiasgrosser) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: similar ones are below

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 11]
```diff
@@ -20,26 +19,29 @@ import SSA.Projects.LLVMRiscV.Pipeline.xor
...
 
-We wrap them in `LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND`,
-which is a rewrite pattern accepted by the rewriter and defined in `PeepholeRefine.lean`.
 
-For future extensions on how to add a new rewrite to the instruction selection pipeline:
-1.) Implement your lowering as a rewrite. See the `add` module for an example.
-2.) Add your array containing your rewrite to the `rewritingPatterns` or `rewritingPatterns2`
-     array. We split it into multiple arrays to avoid stack overflow issues. If you encounter
-     such an issue, add your rewrite to a new array.
+/-! # Instruction selection
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]:
```suggestion
/-! 
# Instruction selection
```

In a multi-line comment, we generally put the heading on its own line

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 12]
```diff
@@ -50,94 +52,95 @@ def rewritingPatterns0 :
...
+  let loweredConst := multiRewritePeephole 100
+    const_match rmInitialDeadCode;
+  let lowerPart1 := multiRewritePeephole 100
+    rewritingPatterns1  loweredConst;
+  let lowerPart2 := multiRewritePeephole 100
+    rewritingPatterns0 lowerPart1;
+  let postLoweringDCE := (DCE.dce' lowerPart2).val;
+  let postReconcileCast := multiRewritePeephole 100 (reconcile_cast_pass) postLoweringDCE;
+  let remove_dead_Cast1 := (DCE.dce' postReconcileCast).val;
+  let remove_dead_Cast2 := (DCE.dce' remove_dead_Cast1).val;
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean:144]: Why do we need to DCE twice here, that seems odd?

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 13]
```diff
@@ -50,94 +52,95 @@ def rewritingPatterns0 :
...
     xor_match,
     zext_match,
     select_match
   ]
+def enable_pseudo_instr_pass := pseudo_match
 
-/-- Defines an array containing only the rewrite pattern which eliminates cast.-/
 def reconcile_cast_pass : List (Σ Γ, Σ ty, PeepholeRewrite LLVMPlusRiscV Γ ty)
-  := List.cons ⟨[Ty.riscv RISCV64.Ty.bv], (Ty.riscv RISCV64.Ty.bv), cast_eliminiation_riscv⟩ <| List.nil
+  := List.cons ⟨[Ty.riscv RISCV64.Ty.bv], (Ty.riscv RISCV64.Ty.bv), cast_eliminiation_riscv⟩ <| List.cons ⟨[Ty.llvm _], (Ty.llvm _), cast_eq_cast_cast_eliminiation_riscv⟩ <| List.nil
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: This line is too long, no?

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 14]
```diff
@@ -50,94 +52,95 @@ def rewritingPatterns0 :
...
 
 
-/-- This function runs the instruction selector on a given `Com`. The functions makes several calls
-to `multiRewritePeephole` and limits the fuel to 100. This means per program and potential rewrite location,
-a maximal of 100 steps is performed. Currently we need to set this limit to avoid a stackoverflow in LeanMLIR.
+/--
+  Run the instruction selector on a given `Com`, by calling several times `multiRewritePeephole`
+  with limited fuel (100).
+  This means that at most 100 steps are performed per-program and per-rewrite-location.
+  The limit prevents us from causing stack overflow.
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]:
```suggestion
  The limit ensures that there is no stack overflow.
```

File: SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean [hunk 15]
```diff
@@ -32,3 +31,22 @@ def cast_eliminiation_riscv : PeepholeRewrite LLVMPlusRiscV [Ty.riscv (.bv)] (Ty
     intro e
     simp_riscv
     simp
+
+def cast_eq_cast_cast_eliminiation_riscv : PeepholeRewrite LLVMPlusRiscV [Ty.llvm (.bitvec 64)] (Ty.llvm (.bitvec 64)) where
+  lhs:= [LV| {
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean]:
```suggestion
  lhs := [LV| {
```
whitespace

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 16]
```diff
@@ -50,94 +52,95 @@ def rewritingPatterns0 :
...
-    ^bb0(%X : i64, %Y : i64 ):
-    %1 = llvm.icmp.ugt %X, %Y : i64
-    %2 = llvm.sub %X, %X : i64
-    llvm.return %1 : i1
-  }]
+/--
+  Run the instruction selector on a given `Com`, by calling several times `multiRewritePeephole`
+  with limited fuel (100), concluding with CSE.
+  This means that at most 100 steps are performed per-program and per-rewrite-location.
+  The limit prevents us from causing stack overflow.
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]:
```suggestion
  The limit ensures that there is no stack overflow.
```

**Review by alexkeizer — APPROVED** [review]
I did a cursory pass/skim. I left some style comments, but found nothing too egregious so feel free to merge

File: SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean [hunk 17]
```diff
@@ -6,13 +6,12 @@ import Lean
...
-The rewrites below are registered to fold-away pairs of unrealized conversion casts.
+  This file contains rewrites for the Peephole Rewriter to eliminate unrealized conversion casts.
+  The rewrites below are registered to fold-away pairs of unrealized conversion casts.
 
-An `unrealized conversion cast` in MLIR is an operation inserted during the lowering
-from one dialect to another dialect to temporary guarantee compatible between type
-systems. It is stating that an element should be casted to type B from type A.
+  An `unrealized conversion cast` in MLIR is an operation inserted during the lowering
+  from one dialect to another dialect to temporary guarantee compatible between type
+  systems. It is stating that an element should be casted to type B from type A.
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean]:
```suggestion
  from one dialect to another dialect to temporarily guarantee compatibility between types.
  It is stating that an element should be casted to type B from type A.
```

File: SSA/Projects/LLVMRiscV/Pipeline/const.lean [hunk 18]
```diff
@@ -7,1150 +7,1150 @@ import SSA.Projects.LLVMRiscV.Pipeline.mkRewrite
 
 open LLVMRiscV
 
-def liRiscvN50 := [LV| {
+    def liRiscv_50 := [LV| {
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/const.lean]: Is this extra indentation intentional?

File: SSA/Projects/LLVMRiscV/Pipeline/mkRewrite.lean [hunk 19]
```diff
@@ -1,9 +1,8 @@
-
 import SSA.Projects.LLVMRiscV.PeepholeRefine
 
 open LLVMRiscV
 
-/- This file defines helper functions/wrapper to simplify the creation of
+/- This file defines helper a wrapper to simplify the creation of
```
Comment (tobiasgrosser) [inline SSA/Projects/LLVMRiscV/Pipeline/mkRewrite.lean]: Grammar

**Review by tobiasgrosser — APPROVED** [review]

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 12 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean:144]: AFAIU we run dce twice, at the beginning of the lowering and after the cast removal (assuming that the casts can produce some code that can be eliminated)

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 7 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: I just changed the tactic. I agree with the deduplication idea, but AFAIU it would expand the surface of this PR and I would like to keep the changes self contained.

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 9 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: done

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 11 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: done

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 14 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: done

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 16 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: applied

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 13 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: split

File: SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean (hunk 17 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean]: applied

File: SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean (hunk 15 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/ReconcileCast.lean]: addressed

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 6 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: indentation should be fixed and consistent

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 5 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean:56]: because one is when x is known, one is one y is known (AFAIU, we are not considering commutativity)

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 8 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: fixed

File: SSA/Projects/LLVMRiscV/Pipeline/const.lean (hunk 18 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/const.lean]: fixed

File: SSA/Projects/LLVMRiscV/Pipeline/mkRewrite.lean (hunk 19 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/mkRewrite.lean]: fixed
